US07507740B2
Production of N-{3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}-5H-pyrrolo[3,2-d]pyrimidin-4-amine hydrochloride
4-Chloro-5H-pyrrolo[3,2-d]pyrimidine (770 mg) and 3-chloro-4-[(3-fluorobenzyl)oxy]aniline (2.52 g) were dissolved in 1-methyl-2-pyrrolidone (10 mL), and the mixture was stirred with heating at 140° C. for 2.5 hrs. After cooling to room temperature, the mixture was diluted with ethyl acetate (300 mL), and stirred at room temperature for 1 hr. The precipitated powder was collected by filtration, washed with ethyl acetate (30 mL), and dried under reduced pressure to give the title compound (1.62 g).

reactant | 4-Chloro-5H-pyrrolo[3,2-d]pyrimidine | 770 mg | ClC=1C2=C(N=CN1)C=CN2 | C6H4ClN3
reactant | 3-chloro-4-[(3-fluorobenzyl)oxy]aniline | 2.52 g | ClC=1C=C(N)C=CC1OCC1=CC(=CC=C1)F | C13H11ClFNO
solvent | 1-methyl-2-pyrrolidone | 10 mL | CN1C(CCC1)=O | C5H9NO
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
product | N-{3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}-5H-pyrrolo[3,2-d]pyrimidin-4-amine hydrochloride | 1.62 g | Cl.ClC=1C=C(C=CC1OCC1=CC(=CC=C1)F)NC=1C2=C(N=CN1)C=CN2 | InChI=1S/C19H14ClFN4O.ClH/c20-15-9-14(25-19-18-16(6-7-22-18)23-11-24-19)4-5-17(15)26-10-12-2-1-3-13(21)8-12;/h1-9,11,22H,10H2,(H,23,24,25);1H
